US08030497B2
4-Ethynyl-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole
A mixture of 17 mg (0.04 mmol) 2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-4-trimethylsilanylethynyl-1H-benzoimidazole and 0.5 ml 1N NaOH in 2 ml THF/methanol (1:1) is stirred for 1 hour at 60° C. The reaction mixture is cooled to room temperature and poured on water and extracted (3×) with ethyl acetate. The combined organic layers are washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified on 0.5 mm silica gel plates (hexane:EtOAc=3:1) to afford 7 mg of the title compound as yellow oil.

reactant | 2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-4-trimethylsilanylethynyl-1H-benzoimidazole | 0.04 mmol, 17 mg | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC=C2C#C[Si](C)(C)C)OC | C25H32N2O2Si
reactant | NaOH | 1N, 0.5 ml | [OH-].[Na+]
solvent | THF methanol | 2 ml | C1CCOC1.CO
product | 4-Ethynyl-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 7 mg | C(#C)C1=CC=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC | C22H24N2O2
